US06608081B2
Phthalimide Formation
To a DMF (10 mL) solution of the above compound (0.060 g, 0.12 mmol) was added potassium phthalimide (0.046 g, 0.25 mmol) and the reaction was heated to 60° C. After heating for 20 hr the solution was cooled to RT and poured into water (40 mL), extracted with EtOAc (3×20 mL), and the organics were washed with water and brine. After drying over MgSO4, the organics were concentrated to an orange solid, then purified by silica gel column chromatography. The desired phthalimide was eluted from the column with 5% methanol/methylene chloride in 14% yield.

reactant | DMF | 10 mL | CN(C)C=O | C3H7NO
reactant | potassium phthalimide | 0.25 mmol, 0.046 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
solvent | water | 40 mL | O | H2O
product | Phthalimide | 14% yield | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
